US07235581B2
c) (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid
A solution of 561 mg (2.6 mmol) 4-(3-fluoro-benzyloxy)-phenylamine and 448 mg (2.6 mmol) 6,6-dimethyl-5,7-dioxa-spiro[2,5]octane-4,8-dione in 2 ml dichloromethane is refluxed for 16 hours. 5 ml of diethylether is added and the precipitate filtered off to yield 485 mg (57%) of a colorless solid. MS: m/e=330.2 (M+H)+.

reactant | 4-(3-fluoro-benzyloxy)-phenylamine | 2.6 mmol, 561 mg | FC=1C=C(COC2=CC=C(C=C2)N)C=CC1 | C13H12FNO
reactant | 6,6-dimethyl-5,7-dioxa-spiro[2,5]octane-4,8-dione | 2.6 mmol, 448 mg | CC1(OC(C2(CC2)C(O1)=O)=O)C | C8H10O4
reactant | diethylether | 5 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | (RS)-1-[4-(3-Fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidine-3-carboxylic Acid | 485 mg, 57% | FC=1C=C(COC2=CC=C(C=C2)N2C(C(CC2)C(=O)O)=O)C=CC1 | C18H16FNO4
